US07981886B2
6-{2-[4-(4-methoxy-benzothiazole-2-carbonyl)-piperidin-1-yl]-acetyl}-4H-benzo[1,4]thiazin-3-one
A mixture of (4-methoxy-benzothiazol-2-yl)-piperidin-4-yl-methanone (83 mg, 0.3 mmol) and 6-(2-chloro-acetyl)-4H-benzo[1,4]thiazin-3-one (72.5 mg, 0.3 mmol, prepared as described in WO 02/096907) in DMF (1 ml) was treated with DIPEA (50 μl, 0.3 mmol) and the mixture was stirred at RT overnight. The mixture was poured on water and extracted with EtOAc. The organic layers were dried over MgSO4 and concentrated. Crystallisation from ether and MeOH gave 65 mg (45%) of title compound as a beige solid.

reactant | (4-methoxy-benzothiazol-2-yl)-piperidin-4-yl-methanone | 0.3 mmol, 83 mg | COC1=CC=CC2=C1N=C(S2)C(=O)C2CCNCC2 | C14H16N2O2S
reactant | 6-(2-chloro-acetyl)-4H-benzo[1,4]thiazin-3-one | 0.3 mmol, 72.5 mg | ClCC(=O)C=1C=CC2=C(NC(CS2)=O)C1 | C10H8ClNO2S
reactant | DIPEA | 0.3 mmol, 50 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 6-{2-[4-(4-methoxy-benzothiazole-2-carbonyl)-piperidin-1-yl]-acetyl}-4H-benzo[1,4]thiazin-3-one | 65 mg, 45% | COC1=CC=CC2=C1N=C(S2)C(=O)C2CCN(CC2)CC(=O)C=2C=CC1=C(NC(CS1)=O)C2 | C24H23N3O4S2
